US06486156B1
Methyl 4-[(E)-3-(1-tritylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate was prepared from methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate using a similar method to that described for methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate in Example 21, but using N-tritylimidazole in replacement of N-methylimidazole.

reactant | methyl 2-(4-fluorophenyl)-4-(3-bromoprop-1-en-1-yl)benzoate | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C=CCBr | C17H14BrFO2
reactant | methyl 4-[3-(1-methylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | CN1C(=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C21H19FN2O2
reactant | N-tritylimidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1 | C22H18N2
reactant | N-methylimidazole | CN1C=NC=C1 | C4H6N2
product | Methyl 4-[(E)-3-(1-tritylimidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C39H31FN2O2
